US09126950B2
In a 50 mL, 3-neck RBF equipped with a magnetic stirrer, reflux condenser, calcium chloride guard tube and thermometer pocket were sequentially charged 4-nitrophenol (1.50 g), DIPEA (2.90 mL) and DCM (25 mL). MEM-C1 (2.016 g) was added drop wise to the reaction at 0° C. The reaction mixture was stirred at 0° C. for 30 minutes and then allowed to stir at room temperature for 4 hours. The reaction was monitored on TLC using hexane:ethyl acetate (8:2) as mobile phase. After completion, the reaction was poured into water and the product was extracted in ethyl acetate and washed with brine. The organic layer was dried over sodium sulfate and the solvent was removed under reduced pressure to give 2.35 g of 1-[(2-methoxyethoxy)methoxy]-4-nitrobenzene as a solid, which was used in the next step without further purification.

reactant | 4-nitrophenol | 1.50 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | DIPEA | 2.90 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | DCM | 25 mL | C(Cl)Cl | CH2Cl2
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
reactant | water | O | H2O
product | 1-[(2-methoxyethoxy)methoxy]-4-nitrobenzene | 2.35 g | COCCOCOC1=CC=C(C=C1)[N+](=O)[O-] | C10H13NO5
